### ISSUE TITLE
`filter_upwards` fails when given `s ∈ map m f` while expecting `_ ∈ f`

### ISSUE THREAD

**Issue by ADedecker** [leanprover-community/mathlib4#2641]
This shouldn't be a problem (and it isn't in Lean3) because `s ∈ map m f` is defeq to `m ⁻¹' s ∈ f`.

I don't have a lot of time to investigate more, but I suspect an easy fix would be inferring the filter we are working with from the goal and feed it explicitly to the lemmas in order to help Lean see that this is fine. 

Lean 3 behavior:
```lean
import order.filter.basic

open filter

variables (α β : Type _) (m : α → β) (f : filter α) (g : filter β) (p : α → Prop) (q : β → Prop)

example (h₁ : tendsto m f g) (h₂ : ∀ᶠ y in g, q y) (h₃ : ∀ x, q (m x) → p x) :
    ∀ᶠ x in f, p x := by
  filter_upwards [h₁ h₂] using h₃ -- works
```

Lean 4 behavior: 
```lean
import Mathlib.Order.Filter.Basic

open Filter

variable (α β : Type _) (m : α → β) (f : Filter α) (g : Filter β) (p : α → Prop) (q : β → Prop)

example (h₁ : Tendsto m f g) (h₂ : ∀ᶠ y in g, q y) (h₃ : ∀ x, q (m x) → p x) :
    ∀ᶠ x in f, p x := by
  filter_upwards [h₁ h₂] using h₃ -- fails

example (h₁ : Tendsto m f g) (h₂ : ∀ᶠ y in g, q y) (h₃ : ∀ x, q (m x) → p x) :
    ∀ᶠ x in f, p x := by
  filter_upwards [mem_map.mp <| h₁ h₂] using h₃ -- works
```

**Comment by ADedecker** [comment]
This came up in #2638

**Comment by Komyyy** [comment]
This is fixed in #4396.
